US07485730B2
Preparation of N-piperidinyl-7-bromo-1-(2′,4′-dichlorophenyl)-4,5-dihydro-1H-thieno[2,3-g]indazol-3-carboxamide
The same procedure described in the preparations a) and b) of Example 3.1. was used to react the 7-bromo-1-(2′,4′-dichlorophenyl)-4,5-dihydro-1H-thieno[2,3-g]indazol-3-carboxylic acid prepared in the Example 2.2 with 1-aminopiperidine. The purification by flash chromatography (oil ether/ethyl acetate 6/4) has given the compound N-piperidinyl-7-bromo-1-(2′,4′-dichlorophenyl)-4,5-dihydro-1H-thieno[2,3-g]indazol-3-carboxamide as white solid with a 42% yield. Rf=0.33 (oil ether/ethyl acetate 6/4); m.p.: 145° C.;

reactant | 7-bromo-1-(2′,4′-dichlorophenyl)-4,5-dihydro-1H-thieno[2,3-g]indazol-3-carboxylic acid | BrC1=CC2=C(CCC=3C(=NN(C23)C2=C(C=C(C=C2)Cl)Cl)C(=O)O)S1 | C16H9BrCl2N2O2S
reactant | 1-aminopiperidine | NN1CCCCC1 | C5H12N2
product | N-piperidinyl-7-bromo-1-(2′,4′-dichlorophenyl)-4,5-dihydro-1H-thieno[2,3-g]indazol-3-carboxamide | 42% yield | N1(CCCCC1)NC(=O)C1=NN(C=2C3=C(CCC12)SC(=C3)Br)C3=C(C=C(C=C3)Cl)Cl | C21H19BrCl2N4OS
